US04049823
1 g. of 3-chloro-3-p-phenoxyphenyl-butyric acid (obtainable by an addition reaction of HCl with 3-p-phenoxyphenyl-2-butenoic acid) and 25 ml. of 20% potassium hydroxide solution are boiled for 10 minutes, cooled, washed with ether and acidified to give 3p-phenoxyphenyl-3-hydroxybutyric acid, m.p. 137°-138°.

reactant | 3-chloro-3-p-phenoxyphenyl-butyric acid | ClC(CC(=O)O)(C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H15ClO3
reactant | HCl | Cl | ClH
reactant | 3-p-phenoxyphenyl-2-butenoic acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(=CC(=O)O)C | C16H14O3
reactant | potassium hydroxide | [OH-].[K+]
product | 3p-phenoxyphenyl-3-hydroxybutyric acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(CC(=O)O)(C)O | C16H16O4
